US05064825
Step 3 4-(Dimethylamino)-2-butyl-1-(2'-(tetrazol-5-yl)biphen-4-yl)methylimidazole-5-carboxylic acid
The title material can be prepared by treating a mixture of 4-(dimethylamino)-2 butyl 5-benzyloxycarbonyl-1-(2'-(N-triphenylmethyltetrazol-5-yl)biphen 4-yl)methylimidazole and 5 weight % of 10% Pd-C with H2 (at 40 psi) in EtOH for 16 hours, followed by filtration (Celite) and purification (SiO2 '35:65:1 CH2Cl2 /MeOH/NH4OH).

reactant | 4-(dimethylamino)-2 butyl 5-benzyloxycarbonyl-1-(2'-(N-triphenylmethyltetrazol-5-yl)biphen 4-yl)methylimidazole | CN(C=1N=C(N(C1C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCC)C | C50H47N7O2
solvent | EtOH | CCO | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | 4-(Dimethylamino)-2-butyl-1-(2'-(tetrazol-5-yl)biphen-4-yl)methylimidazole-5-carboxylic acid | CN(C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCC)C | C24H27N7O2
